US06310243B1
e. 2-Acetoxy-5-chloropentanoyl chloride
Oxalyl chloride (114 g, 0.90 mol) was added to 2-acetoxy-5-chloropentanoic acid g, 0.37 mol). The mixture was stirred at room temperature for 15 h. The volatiles were evaporated and the oily residue was distilled in vacuo to give 75 g (96%) of product. B.p. 93-95° C. (2 mm Hg).

reactant | Oxalyl chloride | 0.90 mol, 114 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-acetoxy-5-chloropentanoic acid | C(C)(=O)OC(C(=O)O)CCCCl | C7H11ClO4
product | 2-Acetoxy-5-chloropentanoyl chloride | 75 g, 96% | C(C)(=O)OC(C(=O)Cl)CCCCl | C7H10Cl2O3
